US05310909
2,4-Dichloro-1-(3-hydroxyphenyl)-N-methylacridone
8 g (25.6 mmol) of N-methyl-1,2,4-trichloroacridone, 8.46 g (76.8 mmol) of resorcinol, 14.15 g (102.4 mmol) of potassium carbonate and 80 ml of NMP are stirred at 60° C. for 30 hours. The mixture is discharged into water/tetrahydrofuran/toluene. The organic phase is washed with water, dried over sodium sulfate, filtered through silica gel and evaporated. The residue is chromatographed on silica gel using methylene chloride. The fractions containing the product are evaporated, and the residue is recrystallized from o-dichlorobenzene. Yield: 5.45 g (55%), melting point 220°-222° C.

reactant | N-methyl-1,2,4-trichloroacridone | 25.6 mmol, 8 g | CN1C=2C(=CC(=C(C2C(C2=CC=CC=C12)=O)Cl)Cl)Cl | C14H8Cl3NO
reactant | resorcinol | 76.8 mmol, 8.46 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | potassium carbonate | 102.4 mmol, 14.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | NMP | 80 ml | CN1CCCC1=O | C5H9NO
solvent | water tetrahydrofuran toluene | O.O1CCCC1.C1(=CC=CC=C1)C
product | 2,4-Dichloro-1-(3-hydroxyphenyl)-N-methylacridone | ClC1=C(C=2C(C3=CC=CC=C3N(C2C(=C1)Cl)C)=O)C1=CC(=CC=C1)O | C20H13Cl2NO2
